US09125836B2
Dicumarol
5-fluorouracil, uracil, mitomycin, manidipine hydrochloride and pioglitazone hydrochloride

reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | uracil | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | mitomycin | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)N | C15H18N4O5
reactant | manidipine hydrochloride | CC1=C(C(C(=C(N1)C)C(=O)OCCN2CCN(CC2)C(C3=CC=CC=C3)C4=CC=CC=C4)C5=CC(=CC=C5)[N+](=O)[O-])C(=O)OC.Cl.Cl
reactant | pioglitazone hydrochloride | CCC=1C=CC(=NC1)CCOC=2C=CC(=CC2)CC3C(=O)NC(=O)S3.Cl
product | Dicumarol | C=1C=CC2=C(C1)C(=C(C(=O)O2)CC3=C(C=4C=CC=CC4OC3=O)O)O | C19H12O6
